US07960567B2
2-(4-Hydroxy-2,3-dimethylphenyl)acetic acid (12.3).
2-(4-Methoxy-2,3-dimethylphenyl)-1-(pyrrolidin-1-yl)ethanone was suspended in a mixture of 48% HBr (aq) (15 mL) and acetic acid (15 mL) and the reaction was heated to reflux for 24 h. The reaction was poured over ice and brought to pH 4 with 1 N NaOH. Ethyl acetate was added and the layers were separated. The organic layer was dried (Na2SO4), filtered and concentrated in vacuo. The residue was taken up in dioxane (100 mL) and 1 N HCl (15 mL) was added. The reaction was heated to reflux for 4 days. Ethyl acetate and 1N HCl were added. The layers were separated, and the aqueous layer was washed with additional ethyl acetate. The organics were combined, dried (Na2SO4), filtered and concentrated in vacuo. Flash column chromatography of the residue, eluting 0% to 7% methanol in dichloromethane, afforded the title compound. LC-MS ESI (neg.) m/z: 179.2 (M−H).

reactant | 2-(4-Methoxy-2,3-dimethylphenyl)-1-(pyrrolidin-1-yl)ethanone | COC1=C(C(=C(C=C1)CC(=O)N1CCCC1)C)C | C15H21NO2
reactant | NaOH | 1 N | [OH-].[Na+]
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | HBr | 15 mL | Br | BrH
solvent | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
product | 2-(4-Hydroxy-2,3-dimethylphenyl)acetic acid | OC1=C(C(=C(C=C1)CC(=O)O)C)C | C10H12O3
